US04882083
To 4,6-dichloro-5-methoxy-2-(4-octylphenyl)pyrimidine (74.2 g, 0.202 mol) were added ethanol (310 ml), water (15.5 ml), 5% Pd-activated carbon (5.7 g) and triethylamine (61.3 g, 0.606 mol), followed by agitating the mixture at about 40° C. in hydrogen current, filtering off the Pd-activated carbon, adding toluene, sufficiently washing the mixture with 2N--NaOH aqueous solution, further washing it with water, distilling off toluene and recrystallizing the residue from ethanol (70 ml) to obtain 5-methoxy-2-(4-octylphenyl)pyrimidine in the form of colorless acicular crystals (54.9 g) having a m.p. of 40.1°-41.8° C.

reactant | 4,6-dichloro-5-methoxy-2-(4-octylphenyl)pyrimidine | 0.202 mol, 74.2 g | ClC1=NC(=NC(=C1OC)Cl)C1=CC=C(C=C1)CCCCCCCC | C19H24Cl2N2O
reactant | ethanol | 310 ml | C(C)O | C2H6O
reactant | water | 15.5 ml | O | H2O
reactant | triethylamine | 0.606 mol, 61.3 g | C(C)N(CC)CC | C6H15N
solvent | hydrogen | [H][H] | H2
catalyst | Pd | 5.7 g | [Pd] | Pd
product | 5-methoxy-2-(4-octylphenyl)pyrimidine | COC=1C=NC(=NC1)C1=CC=C(C=C1)CCCCCCCC | C19H26N2O
